US07199150B2
(1-Ethylpyrrol-2-yl)methyl triphenylphosphonium iodide
Subsequently, to a suspension of (1-ethylpyrrol-2-yl)methyl trimethylammonium iodide (20 g, 68.0 mmol) obtained above in acetonitrile (200 ml) was added triphenylphosphine (22.0 g, 83.9 mmol), and the resulting mixture was stirred at 80° C. for 9 hours. After cooling, the reaction mixture was concentrated to about one-half of its initial volume, to which was added ethyl acetate (100 ml). The crystals precipitated were collected by filtration, washed with ethyl acetate and dried in vacuo to afford the title compound (27.5 g,yield: 81%).

reactant | (1-ethylpyrrol-2-yl)methyl trimethylammonium iodide | 68.0 mmol, 20 g | [I-].C(C)N1C(=CC=C1)C[N+](C)(C)C
reactant | triphenylphosphine | 83.9 mmol, 22.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | (1-Ethylpyrrol-2-yl)methyl triphenylphosphonium iodide | 27.5 g, yield: 81% | [I-].C(C)N1C(=CC=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C25H25NP.HI/c1-2-26-20-12-13-22(26)21-27(23-14-6-3-7-15-23,24-16-8-4-9-17-24)25-18-10-5-11-19-25;/h3-20H,2,21H2,1H3;1H/q+1;/p-1
